US04410537
Ethyl 5-(2-formyl-3-hydroxy-4-methoxycarbonylphenoxy)pentanoate (0.5 g, 0.0015 M) was added to 10% sodium hydroxide solution (10 ml) and stirred at room temperature for 2 hours. The reaction mixture was acidified with concentrated hydrochloric acid and the resulting solid was filtered, sucked dry, and washed with a little ethanol, then dried in a desiccator over phosphorus pentoxide to give 5-(2-formyl-3-hydroxy-4-carboxyphenoxy)pentanoic acid, 0.38 g, 90%, m.p. 165°-166° C.

reactant | Ethyl 5-(2-formyl-3-hydroxy-4-methoxycarbonylphenoxy)pentanoate | 0.0015 M, 0.5 g | C(=O)C1=C(OCCCCC(=O)OCC)C=CC(=C1O)C(=O)OC | C16H20O7
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 5-(2-formyl-3-hydroxy-4-carboxyphenoxy)pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC(=C1O)C(=O)O | C13H14O7
